US05216020
Step B: Preparation of 4,5-dihydro-5-methyl-5-isopropylaminomethylthieno[2,3-b]thiophene-2-sulfonamide-6,6-dioxide hydrochloride
The title compound was prepared in the same way as 5-(N-isobutylaminomethyl)4,5-dihydro-5-methylthieno[2,3-b]thiophene-2-sulfonamide-6,6-dioxide hydrochloride. Thus 5-(N-isopropylcarbamoyl)-4,5-dihydro-5-methylthieno[2,3-b]thiophene-2-N-t-butylsulfonamide-6,6-dioxide (3.0 g, 7.3 mmol) was reduced with borane-dimethylsulfide complex (5.0 mL, 50 mmol), deprotected with TFA, and converted to the HCl salt to give the title compound as a white solid (1.32 g, 48% over two steps), mp=132°-135° C. Anal. Calc. for C11H18N2O4S3.HCl.1/2H2O: C, 34.41; H, 5.25; N, 7.29. Found: C, 34.42; H, 5.19; N, 7.11.

reactant | 5-(N-isobutylaminomethyl)4,5-dihydro-5-methylthieno[2,3-b]thiophene-2-sulfonamide-6,6-dioxide hydrochloride | Cl.C(C(C)C)NCC1(CC2=C(S1(=O)=O)SC(=C2)S(=O)(=O)N)C
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | Cl | ClH
product | 4,5-dihydro-5-methyl-5-isopropylaminomethylthieno[2,3-b]thiophene-2-sulfonamide-6,6-dioxide hydrochloride | 1.32 g, 48% | Cl.CC1(CC2=C(S1(=O)=O)SC(=C2)S(=O)(=O)N)CNC(C)C | InChI=1S/C11H18N2O4S3.ClH/c1-7(2)13-6-11(3)5-8-4-9(20(12,16)17)18-10(8)19(11,14)15;/h4,7,13H,5-6H2,1-3H3,(H2,12,16,17);1H
